US05104888
6-Acetoxy-2-(4-aminophenoxymethyl)-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl)chroman (Step D2)
12.3 g of 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman-4-one (prepared as described in Preparation 19) were dissolved in a mixture of 200 ml of methanol and 20 ml of benzene, and then catalytically reduced for 6 hours at room temperature, in the presence of 2.4 g of 10% w/w palladium-on-carbon, under 1 atmosphere (about 1 bar) pressure of hydrogen. The catalyst was filtered off, and the filtrate was condensed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography, eluted with a 4:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman-4-one | 12.3 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C27H33NO7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | palladium-on-carbon | [Pd] | Pd
product | 6-Acetoxy-2-(4-aminophenoxymethyl)-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl)chroman | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(C)COC1=CC=C(C=C1)N)=O | C27H35NO5
